US08110687B2
Step 1: 1-{2-[3-Nitro-5-(trifluoromethyl)phenoxy]ethyl}pyrrohdine
A mixture of 1-(2-chloroethyl)pyrrolidine (0.355 g, 2.66 mmol), 3-nitro-5-(trifluoromethyl)phenol (0.500 g, 2.41 nmmol), Cs2CO3 (2.36 g, 7.24 mmol), and DMF (18.69 mL) was allowed to stir at rt until reaction was judged to be complete. The mixture was diluted with EtOAc and washed with water (3×25 mL). The organic solution was dried over Na2SO4, filtered, and concentrated to give 3-(2-pyrrohidin-1-ylethoxy)-5-(trifluoromethyl)anlline as a brown oil (0.49 g, 63%). LCMS: (FA) ES+ 304.3.

reactant | 1-(2-chloroethyl)pyrrolidine | 2.66 mmol, 0.355 g | ClCCN1CCCC1 | C6H12ClN
reactant | 3-nitro-5-(trifluoromethyl)phenol | 0.500 g | [N+](=O)([O-])C=1C=C(C=C(C1)C(F)(F)F)O | C7H4F3NO3
reactant | Cs2CO3 | 7.24 mmol, 2.36 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | DMF | 18.69 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 1-{2-[3-Nitro-5-(trifluoromethyl)phenoxy]ethyl}pyrrohdine | [N+](=O)([O-])C=1C=C(OCCN2CCCC2)C=C(C1)C(F)(F)F | C13H15F3N2O3
